US05639748
A solution of 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-amine (633 mg, 3 mmol) in acetic acid (6 ml) was treated with 2,5-dimethoxytetrahydrofuran (396 mg, 3 mmol) and stirred at 110° C. for 1.5 hours. The mixture was poured into ice, basified with 10% sodium hydroxide and extracted with ethyl acetate. The organic phase was dried, concentrated and treated with hydrogen chloride to give 6-chloro-2,3,4,5-tetrahydro-3-methyl-9-(1H-pyrrol-1-yl)-1H-3-benzazepine hydrochloride (methanol-acetonitrile); mp 262°-264° C.

reactant | 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-amine | 3 mmol, 633 mg | ClC1=CC=C(C2=C1CCN(CC2)C)N | C11H15ClN2
reactant | 2,5-dimethoxytetrahydrofuran | 3 mmol, 396 mg | COC1OC(CC1)OC | C6H12O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 6-chloro-2,3,4,5-tetrahydro-3-methyl-9-(1H-pyrrol-1-yl)-1H-3-benzazepine hydrochloride | Cl.ClC1=CC=C(C=2CCN(CCC21)C)N2C=CC=C2 | InChI=1S/C15H17ClN2.ClH/c1-17-10-6-12-13(7-11-17)15(5-4-14(12)16)18-8-2-3-9-18;/h2-5,8-9H,6-7,10-11H2,1H3;1H
